US04834904
26.3 g of (S)-3-chlorobutyl-1-tosylate, preparable from p-toluenesulfonyl chloride and (S)-3-chlorobutan-1-ol, and 27.2 g of 4-(5-n-hexylpyrimidin-2-yl)phenol are added to a suspension of 40 g of potassium carbonate in 200 ml of acetone. After 24 hours' boiling under reflux, the reaction mixture is filtered, the filtrate is freed from solvent and the residue is twice recrystallized from ethanol. (S)-2-[p-(3-Chlorobutyloxy)phenyl]-5-n-hexylpyrimidine is obtained.

reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (S)-3-chlorobutan-1-ol | Cl[C@H](CCO)C | C4H9ClO
reactant | 4-(5-n-hexylpyrimidin-2-yl)phenol | 27.2 g | C(CCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C16H20N2O
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | (S)-2-[p-(3-Chlorobutyloxy)phenyl]-5-n-hexylpyrimidine | Cl[C@H](CCOC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCC)C | C20H27ClN2O
